US06825208B2
To a mixture of 4-acetoxy-3,5-dimethoxy benzaldehyde (5.4 g, 20 mmol) and 5.4 g (40 mmol) of NaOAc.3H2O in acetic acid (14 mL) and water (2 mL) was added dropwise bromine (1.2 mL, 24 mmol). The mixture was stirred at RT overnight and repartitioned between ethyl acetate and water. The aqueous layer was extracted with ethyl acetate (3×) and the combined organic layer was washed with saturated sodium bicarbonate solution, water and brine and dried over anhydrous sodium sulfate. Removal of the solvent gave 5.6 g of 4-acetoxy-2-bromo-3,5-dimethoxybenzaldehyde (80%).

reactant | 4-acetoxy-3,5-dimethoxy benzaldehyde | 20 mmol, 5.4 g | C(C)(=O)OC1=C(C=C(C=O)C=C1OC)OC | C11H12O5
reactant | bromine | 24 mmol, 1.2 mL | BrBr | Br2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 14 mL | C(C)(=O)O | C2H4O2
solvent | water | 2 mL | O | H2O
product | 4-acetoxy-2-bromo-3,5-dimethoxybenzaldehyde | 5.6 g, 80% | C(C)(=O)OC1=C(C(=C(C=O)C=C1OC)Br)OC | C11H11BrO5
